US07585880B2
A solution of 4-(diethoxymethyl)benzaldehyde (10.4 g, 50.0 mmol) in tetrahydrofuran (200 mL) was stirred at room temperature under a nitrogen atmosphere, 2 M n-propylmagnesium bromide tetrahydrofuran solution (27.5 mL, 55.0 mmol) was added dropwise. After 30 min, aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-20:80) to give 1-[4-(diethoxymethyl)phenyl]butane-1-ol (6.39 g, 25.3 mmol) as a colorless oil. The oil was dissolved in a mixture of tetrahydrofuran (75 mL) and water (25 mL) and p-toluenesulfonic acid monohydrate (0.500 g, 2.63 mmol) was added. The mixture was stirred at room temperature for 5 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-40:60) to give the title compound (4.51 g, yield 51%, 2 step) as a colorless oil.

reactant | 4-(diethoxymethyl)benzaldehyde | 50.0 mmol, 10.4 g | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | n-propylmagnesium bromide tetrahydrofuran | 55.0 mmol, 2 M, 27.5 mL | O1CCCC1.C(CC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-[4-(diethoxymethyl)phenyl]butane-1-ol | 25.3 mmol, 6.39 g | C(C)OC(C1=CC=C(C=C1)C(CCC)O)OCC | C15H24O3
